US06586633B1
Production of 3′-Bromomethylpropiophenone
3′-Methylpropiophenone (2.38 g; 16.1 mmol), N-bromosuccinimide (2.78 g; 16.1 mmol), and benzoyl peroxide (0.20 g) were added to carbon tetrachloride (60 ml), and the mixture was heated under reflux for 3 hours. The mixture was brought to room temperature, and insoluble matter was filtered off. The solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=20:1), to thereby yield 3.48 g of the target compound as pale yellow oily, matter (yield: 95.2%). 1H-NMR (CDCl3, ppm); 1.23 (3H, t, J=1.89 Hz), 3.01 (2H, q, J=1.89 Hz), 4.53 (3H, s), 7.42˜7.70 (2H, m), 7.79˜8.13 (2H, m).

reactant | 3′-Methylpropiophenone | 16.1 mmol, 2.38 g | CC=1C=C(C=CC1)C(CC)=O | C10H12O
reactant | N-bromosuccinimide | 16.1 mmol, 2.78 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.20 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3′-Bromomethylpropiophenone | yield: 95.2% | BrCC=1C=C(C=CC1)C(CC)=O | C10H11BrO
